US03998831
Preparation of 3,7,7-trimethyl-7,8-dihydro-5(6H)-quinolone
A mixture of 3-amino-2-methylacrolein (8.5 g., 0.1 mol.) and dimedone (14 g., 0.1 mol.) was treated with triethylamine (5 ml.) and ammonium acetate (0.1 g.) and heated in an oil bath at 120° C with stirring for 20 hours. The cooled reaction mixture was diluted with 2N HCl (50 ml.) and extracted with ethyl acetate (2 × 50 ml.) and the extracts discarded. The aqueous solution was adjusted to pH 10.0 with sodium carbonate and extracted with ethyl acetate (3 × 50 ml.). The combined extracts were dried (MgSO4 and the solvent removed to give a residual oil which was distilled to give the title compound as a colourless oil (7.8 g., 40%) b.p. 80°/0.2 mm Hg. (RT = 2 min. 2% OV17, T=150°).

reactant | 3-amino-2-methylacrolein | 0.1 mol, 8.5 g | NC=C(C=O)C | C4H7NO
reactant | dimedone | 0.1 mol, 14 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | HCl | 2N, 50 ml | Cl | ClH
catalyst | ammonium acetate | 0.1 g | C(C)(=O)[O-].[NH4+]
product | 3,7,7-trimethyl-7,8-dihydro-5(6H)-quinolone | 7.8 g, 40% | CC=1C=NC=2CC(CC(C2C1)=O)(C)C | C12H15NO
